Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Left facial numbness and left facial droop
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ yo L-handed woman with long-standing HTN. 
She reports that ___ she developed low-grade 
temp,cough, URI. Then ___ in the evening she noted 
numbness/tingling in L V2-3 distribution. She was feeling 
generally unwell and fatigued so did not go to work and went to 
see her PCP on ___ who thought she may have sinusitis so gave 
her a script for Augmentin. She had also noted development of 
bilat ankle swelling but no chest pain/palpitations/SOB/PND or 
orthopnea. On ___ she developed L-sided sharp 
headache with nausea. She went back to see her PCP today who
wondered whether she might have a L facial droop and sent her to 
the ED for neuro eval. The h/a is much improved ___ intensity 
but the nausea is still present. No dysarthria, dysphagia, other 
paresthesias, no weakness noted. No scotomas, diplopia, blurry 
vision, dizziness. No photo or phonophobia.  No pain upon eye 
movements. No hearing changes changes. Prior h/a Q few months 
correlating with HTN. No neck pain, no emesis. ROS otherwise 
unremarkable.
 
Past Medical History:
Hypertension, bp runs 120-130/60-70 at home
Headaches
 
Social History:
___
Family History:
-mother, maternal aunt and maternal grandmother with HTN. 
-father died of acute MI at age ___ without clear risk 
factors 
 
Physical Exam:
VITALS: T 99 po HR 70 BP 210/123 to 165/122 RR 18 sO2 99%Ra  
GEN: NAD
HEENT: mmm  
NECK: no LAD; no carotid bruits; full range neck movements  
LUNGS: Clear to auscultation bilaterally  
HEART: Regular rate and rhythm, normal S1 and S2, no murmurs, 
gallops and rubs.  
ABDOMEN: normal bowel sounds, soft, nontender, nondistended  
EXTREMITIES: no clubbing, cyanosis, ecchymosis, or edema  

MENTAL STATUS:  
Awake and alert, cooperative with exam, normal affect. 
Oriented to place, month, day, and date, person. 
Attention: DOWbw. 
Memory: Registration: ___ items; Recall ___ at 5 min. 
Language: fluent; repetition: intact; 
Naming intact; Comprehension intact; no dysarthria, no 
paraphasic errors. 
Prosody: normal  
No Apraxia.  No Neglect. 

CRANIAL NERVES:  
II: Visual fields are full to confrontation, pupils equally 
round and reactive to light both directly and consensually, 
3-->2 mm bilaterally. No papilledema. 
III, IV, VI: Extraocular movements intact without nystagmus. No 
ptosis.
V: Decreased pinprick in L V2 distribution
VII: Facial movement symmetrical; no facial droop.  
VIII: Hearing intact to finger rub bilaterally.  
IX: Palate elevates in midline.  
XII: Tongue protrudes in midline, no fasciculations.  
XI: Sternocleidomastoid and trapezius normal bilaterally.  
 
MOTOR SYSTEM: Normal bulk and tone bilaterally. No adventitious 
movements, no tremor, no asterixis.  
      D  T  B WF WE FiF ___ IP  Q H AF AE TF TE  
Right ___  ___   ___  5  5    
Left  5- 4+ ___   ___  ___    
LUE pronator drift. No rebound.  
  
REFLEXES: DTRs 2+ and symmetric, plantar response mute bilat

SENSORY SYSTEM: except for L V2 numbness, sensation intact to 
light touch, pin prick, temperature (cold), and proprioception 
in all extremities. No extinction to DSS.
 
COORDINATION: Normal FNF, RAM clumsy with L hand, nml HTS. No 
dysmetria or pastpointing.
  
GAIT: narrow based, normal arm swing, normal initiation. 
Romberg: negative. Able to do tandem gait, walk on toes, walk on 
heels, but more difficulty with unipedal hopping on L foot.  
 
Pertinent Results:
LABS: 
___ 02:00PM BLOOD WBC-5.6 RBC-4.69 Hgb-13.6 Hct-40.3 MCV-86 
MCH-28.9 MCHC-33.7 RDW-13.0 Plt ___
___ 05:00AM BLOOD WBC-6.4 RBC-4.42 Hgb-13.2 Hct-38.4 MCV-87 
MCH-30.0 MCHC-34.5 RDW-13.2 Plt ___
___ 02:00PM BLOOD Neuts-56.8 ___ Monos-5.1 Eos-2.1 
Baso-0.7
___ 02:00PM BLOOD Glucose-90 UreaN-10 Creat-0.8 Na-140 
K-3.9 Cl-107 HCO3-27 AnGap-10
___ 05:00AM BLOOD Glucose-99 UreaN-9 Creat-0.8 Na-140 K-3.6 
Cl-108 HCO3-26 AnGap-10
___ 05:00AM BLOOD ALT-34 AST-23 CK(CPK)-202*
___ 03:45PM BLOOD CK(CPK)-192*
___ 05:00AM BLOOD CK-MB-3 cTropnT-<0.01
___ 03:45PM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:00AM BLOOD Calcium-9.5 Phos-3.6 Mg-2.0 Cholest-121
___ 05:00AM BLOOD %HbA1c-5.7
___ 05:00AM BLOOD Triglyc-130 HDL-30 CHOL/HD-4.0 LDLcalc-65
___ 05:00AM BLOOD TSH-1.7
___ 05:00AM BLOOD CRP-2.1
___ 02:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 02:00PM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 02:00PM URINE ___ Bacteri-NONE Yeast-NONE 
___

IMAGING:
ECG (___): Sinus rhythm at a rate of 67 and occasional atrial 
ectopy. Left atrial abnormality. Compared to the previous 
tracing of ___ there is occasional atrial ectopy. The atrial 
morphology has changed and the rate has slowed. 

CXR PA/Lateral (___): IMPRESSION: No acute cardiopulmonary 
process.

Head CT (___): IMPRESSION: No evidence of acute intracranial 
hemorrhage. Continued partial opacification of the sphenoid 
sinus, grossly unchanged since ___. 

MRI/MRA head/neck, MRV (___): IMPRESSION: 
1. No evidence of stroke, dissection, venous thrombosis, or 
abnormal enhancement. 
2. Sphenoid sinus opacification. 
3. Prominent nasopharyngeal soft tissues. Correlate clinically 
possibly with direct visualization.  
 
Brief Hospital Course:
The patient is a ___ year old woman with a history of 
hypertension who presented with a 1 week history of 
URI/sinusitis which progressed to numbness in her left V2>V3 
distribution, left sided headache, and then on the day of 
admission a left facial droop noticed by her PCP. Her 
neurological examination was notable for a patch of left V2 
sensory loss (not involving her nose or lateral V2 region) to 
pinprick. Head CT showed no evidence of acute intracranial 
hemorrhage, continued partial opacification of the sphenoid 
sinus, grossly unchanged since ___. MRI/MRA brain and neck and 
MRV showed no evidence of stroke, dissection, venous thrombosis, 
or abnormal enhancement. There was sphenoid sinus opacification 
and prominent nasopharyngeal soft tissues. FLP: Chol 121, ___ 
130, HDL 30, LDL 65; HgA1c 5.7%; CEs: CK 202-192, CKMB 3 x2, 
TropT <0.01 x2. She has a history of elevated CK. It was 
determined that she most likely had a complicated migraine vs. 
symptoms referred from sinusitis. There were no changes made to 
her medications, and she was continued on Lisinopril 40 mg 
daily, HCTZ 25 mg daily, and Labetalol 200 mg bid.  

 
Medications on Admission:
(confirmed with patient)
-Labetalol 200 BID
-HCTZ 25 daily
-Lisinopril 40 daily
-Nasonex ___ mcg 2 puffs BID
-Depo-provera 150 mg IM Q12 wks
 
Discharge Medications:
1. Labetalol 200 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
3. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Nasonex ___ mcg/Actuation Spray, Non-Aerosol Sig: Two (2) 
puffs Nasal twice a day.  
5. Depo-Provera  Intramuscular
6. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for headache.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Left facial numbness: complicated migraine vs. sinusitis

SECONDARY: 
Hypertension

 
Discharge Condition:
Decreased sensation to pinprick and light touch in the left 
lateral V2 distribution. Face/smile symmetric, normal corneal 
reflex bilaterally. Full strength. Downward movement (but no 
pronation) of extended LUE.

 
Discharge Instructions:
You were admitted to the hospital with numbness in your left 
cheek and a left facial droop in the setting of a headache. Your 
MRI did not show evidence of a stroke. Your symptoms are most 
likely due to either a complicated migraine or referred symptoms 
from your sinusitis.

There were no changes made to your medications.

If you develop weakness or numbness, difficulty speaking or 
swallowing, decreased vision or blurry vision, fevers/chills, or 
any other symptoms that concern you, call your PCP or return to 
the ED.
 
Followup Instructions:
___